US08633186B2
2-Amino-6-ethynylbenzonitrile
To a solution of 2-amino-6-bromobenzonitrile (1.25 g, 6.34 mmol) and ethynyltrimethylsilane (2.42 g, 12.7 mmol) in dry Et3N (15 mL) was added under N2Cu(I) (60 mg), Pd(PPh3)4 (360 mg) and the mixture was stirred at 80° C. for 20 hours. The reaction mixture was cooled down to room temperature, diluted with ethyl acetate and washed with brine. The organic layer was evaporated and the residue was dissolved in methanol (20 mL), treated with 1M aqueous NaOH solution (1.05 equiv.) and stirred at room temperature for 1 hour. Methanol was evaporated off and the aqueous residue was extracted with CH2Cl2, dried over MgSO4, and purified over silica gel (ethyl acetate/hexanes 75/25) to furnish the desired product in 93% yield as light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 4.54 (s, 1H), 6.24 (br s, 2H), 6.76 (dd, J=0.8, 7.6 Hz, 1H), 6.82 (dd, J=0.8, 8.4 Hz, 1H), 7.28 (dd, J=7.6, 8.4 Hz, 1H). MS 143 (MH+).

reactant | 2-amino-6-bromobenzonitrile | 6.34 mmol, 1.25 g | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
reactant | ethynyltrimethylsilane | 12.7 mmol, 2.42 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | NaOH | 1M, 1.05 equiv. | [OH-].[Na+]
solvent | Et3N | 15 mL | CCN(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 360 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-6-ethynylbenzonitrile | 93% yield | NC1=C(C#N)C(=CC=C1)C#C | C9H6N2
